US07074800B1
A mixture of 2-fluoro-4-nitrophenol (15 gr, 95.5 mmol) and benzyl bromide (18 g, 105 mmol) in acetone (125 ml) containing potassium carbonate (26.5 gr, 190 mmol) was refluxed for 2 hours. The volatiles were removed and the residue was partitioned between 2N hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water, brine, dried (MgSO4) and the volatiles were removed under vacuum. The solid was triturated with petroleum ether to give 2-fluoro-4-nitro-benzyloxybenzene (23 g, 97%).

reactant | 2-fluoro-4-nitrophenol | 95.5 mmol, 15 gr | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | benzyl bromide | 105 mmol, 18 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 190 mmol, 26.5 gr | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | 2-fluoro-4-nitro-benzyloxybenzene | 23 g, 97% | FC1=C(C=CC(=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C13H10FNO3
